US03987047
8,11-Dimethyl-2,3,4,5-tetrahydro-1H-2-azepino[4,3-b]quinoline-carboxylic acid ethyl ester was prepared from 8,11-dimethyl-2,3,4,5-tetrahydro-1H-azepino[4,3-b]quinoline and ethyl chloroformate analogous to Example 155.

reactant | 8,11-dimethyl-2,3,4,5-tetrahydro-1H-azepino[4,3-b]quinoline | CC=1C=CC=2C(=C3C(=NC2C1)CCCNC3)C | C15H18N2
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
product | 8,11-Dimethyl-2,3,4,5-tetrahydro-1H-2-azepino[4,3-b]quinoline-carboxylic acid ethyl ester | Yield: 42% | C(C)OC(=O)N1CC=2C(=NC=3C=C(C=CC3C2C)C)CCC1 | C18H22N2O2
